### PR TITLE
feat(Combinatorics/SimpleGraph): Some lemmas about walk, cycle and Hamiltonian cycle

### PR DESCRIPTION
**Pull request by znssong**
---

These lemmas are separated from the `meow-sister/BondyChvatal` branch and will be needed for the proof of the Bondy-Chvátal theorem.

- [x] depends on: #15536 
- [x] depends on: #16294

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean [hunk 1]
```diff
@@ -787,6 +789,79 @@ def firstDart (p : G.Walk v w) (hp : ¬ p.Nil) : G.Dart where
...
 
+lemma firstDart_mem_darts {u v : V} (p : G.Walk u v) (hp : ¬p.Nil) :
+    p.firstDart hp ∈ p.darts := by
+  induction p <;> simp [Walk.firstDart, Walk.sndOfNotNil, Walk.notNilRec] at hp |-
+
+lemma darts_getElem_zero {u v} {p : G.Walk u v} (hi : 0 < p.length) :
+    (p.darts[0]'(by simp; omega)).fst = u := by
+  induction p with
+  | nil => simp at hi
+  | @cons u' v' w' adj tail _ => simp
```
Comment (Rida-Hamadani) [inline Mathlib/Combinatorics/SimpleGraph/Walk.lean:800]:
```suggestion
  | cons => simp
```

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean [hunk 2]
```diff
@@ -787,6 +789,79 @@ def firstDart (p : G.Walk v w) (hp : ¬ p.Nil) : G.Dart where
...
+  congr 1
+  rw [add_comm]
+  simp; omega
+
+lemma support_getElem_eq_getVert {u v} {p : G.Walk u v} {i} (hi : i < p.length + 1) :
+    p.support[i]'(by simpa using hi) = p.getVert i := by
+  induction p generalizing i with
+  | nil => simp [Walk.getVert]
+  | cons v p' ih =>
+    cases' i with j
```
Comment (Rida-Hamadani) [inline Mathlib/Combinatorics/SimpleGraph/Walk.lean:843]:
```suggestion
    cases i
```

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean [hunk 3]
```diff
@@ -787,6 +789,79 @@ def firstDart (p : G.Walk v w) (hp : ¬ p.Nil) : G.Dart where
...
+    · simp
```
Comment (Rida-Hamadani) [inline Mathlib/Combinatorics/SimpleGraph/Walk.lean:844]:
```suggestion
    · rfl
```

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean [hunk 4]
```diff
@@ -961,6 +1036,28 @@ theorem length_dropUntil_le {u v w : V} (p : G.Walk v w) (h : u ∈ p.support) :
   rw [length_append, add_comm] at this
   exact Nat.le.intro this
 
+private theorem dropUntil_not_nil {u v w : V} {p : G.Walk u v} (hw : w ∈ p.support) (ne : w ≠ v) :
+    ¬(p.dropUntil w hw).Nil := by
+  induction p with
+  | @nil u =>
```
Comment (Rida-Hamadani) [inline Mathlib/Combinatorics/SimpleGraph/Walk.lean:1042]:
```suggestion
  | nil =>
```

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean [hunk 5]
```diff
@@ -961,6 +1036,28 @@ theorem length_dropUntil_le {u v w : V} (p : G.Walk v w) (h : u ∈ p.support) :
...
+    simp only [support_nil, List.mem_singleton] at hw
+    exact False.elim (ne hw)
+  | @cons u' v' w' adj tail ih =>
```
Comment (Rida-Hamadani) [inline Mathlib/Combinatorics/SimpleGraph/Walk.lean:1045]:
```suggestion
  | cons _ _ ih =>
```

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean [hunk 6]
```diff
@@ -961,6 +1036,28 @@ theorem length_dropUntil_le {u v w : V} (p : G.Walk v w) (h : u ∈ p.support) :
...
+    simp only [support_cons, List.mem_cons] at hw
+    cases' hw with hw₁ hw₂
+    · subst hw₁
+      simp [Walk.dropUntil]
+    · simp only [dropUntil, support_cons]
+      split_ifs with hw₃
+      · subst hw₃
+        simp
```
Comment (Rida-Hamadani) [inline Mathlib/Combinatorics/SimpleGraph/Walk.lean:1053]:
```suggestion
        exact not_nil_cons
```

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean [hunk 7]
```diff
@@ -961,6 +1036,28 @@ theorem length_dropUntil_le {u v w : V} (p : G.Walk v w) (h : u ∈ p.support) :
...
+      · exact ih hw₂ ne
+
+lemma sum_takeUntil_dropUntil_length {u v w : V} {p : G.Walk u v} (hw : w ∈ p.support) :
+    (p.takeUntil w hw).length + (p.dropUntil w hw).length = p.length := by
+  have := congr_arg (·.length) (p.take_spec hw)
+  simpa only [length_append] using this
```
Comment (Rida-Hamadani) [inline Mathlib/Combinatorics/SimpleGraph/Walk.lean:1059]:
```suggestion
  simpa only [length_append] using congr_arg (·.length) (p.take_spec hw)
```
This applies to other places too.

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean [hunk 8]
```diff
@@ -1242,4 +1348,58 @@ theorem map_toDeleteEdges_eq (s : Set (Sym2 V)) {p : G.Walk v w} (hp) :
 
 end Walk
 
+namespace Walk
+
+open Classical
+variable {G}
+
```
Comment (Rida-Hamadani) [inline Mathlib/Combinatorics/SimpleGraph/Walk.lean:1355]:
```suggestion
```
Can you remove this part and add `open Classical in` above the lemmas you need `Classical` in?

**Review by Rida-Hamadani — COMMENTED** [review]
Thanks! This review is not exhaustive.

File: Mathlib/Combinatorics/SimpleGraph/Finite.lean [hunk 9]
```diff
@@ -303,6 +303,15 @@ theorem bot_degree (v : V) : (⊥ : SimpleGraph V).degree v = 0 := by
   erw [degree, neighborFinset_eq_filter, filter_False]
   exact Finset.card_empty
 
+open Classical in
+lemma degree_mono (u : V) : Monotone (fun G => degree G u) := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Finite.lean:307]:
```suggestion
lemma degree_mono {u : V} : Monotone (fun G => degree G u) := by
```

File: Mathlib/Combinatorics/SimpleGraph/Finite.lean [hunk 10]
```diff
@@ -303,6 +303,15 @@ theorem bot_degree (v : V) : (⊥ : SimpleGraph V).degree v = 0 := by
...
+  intro G H le
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Finite.lean:308]:
```suggestion
  intro G H hGH
```
to avoid confusion on whether `le` is a variable or a keyword

File: Mathlib/Combinatorics/SimpleGraph/Finite.lean [hunk 11]
```diff
@@ -303,6 +303,15 @@ theorem bot_degree (v : V) : (⊥ : SimpleGraph V).degree v = 0 := by
...
+  simp only [← card_neighborFinset_eq_degree]
+  apply Finset.card_le_card
+  intro v hv
+  simp at hv
+  simpa using le hv
+
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Finite.lean:314]:
```suggestion

@[gcongr] protected lemma GCongr.degree_le_degree {G H : SimpleGraph V} {u : V} (hGH : G ≤ H) :
    degree G u ≤ degree G v := degree_mono h
```

File: Mathlib/Combinatorics/SimpleGraph/Finite.lean [hunk 12]
```diff
@@ -303,6 +303,15 @@ theorem bot_degree (v : V) : (⊥ : SimpleGraph V).degree v = 0 := by
...
   exact Finset.card_empty
 
+open Classical in
+lemma degree_mono (u : V) : Monotone (fun G => degree G u) := by
+  intro G H le
+  simp only [← card_neighborFinset_eq_degree]
+  apply Finset.card_le_card
+  intro v hv
+  simp at hv
+  simpa using le hv
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Finite.lean:313]:
```suggestion
  gcongr
```
You will to write `neighborFinset_mono` and let `gcongr` know about it

File: Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean [hunk 13]
```diff
@@ -101,21 +101,235 @@ lemma isHamiltonianCycle_iff_isCycle_and_support_count_tail_eq_one :
...
+  have := hp.2 b
+  simp at this
+  omega
+
+lemma mem_dropLast_support (hp : p.IsHamiltonianCycle) : b ∈ p.support.dropLast := by
+  rw [List.IsRotated.mem_iff (IsRotated_dropLast_tail p)]
+  apply hp.mem_tail_support
+
+/-- The dart in the Hamiltonian cycle that starts at `b` -/
+noncomputable def dart_with_fst (hp : p.IsHamiltonianCycle) : G.Dart :=
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean:151]:
```suggestion
noncomputable def dartWithFst (hp : p.IsHamiltonianCycle) : G.Dart :=
```

File: Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean [hunk 14]
```diff
@@ -101,21 +101,235 @@ lemma isHamiltonianCycle_iff_isCycle_and_support_count_tail_eq_one :
...
+lemma self_next_in_darts (hp : p.IsHamiltonianCycle) :
+    ∃ d ∈ p.darts, d.fst = b ∧ d.snd = hp.next b := by
+  unfold IsHamiltonianCycle.next dart_with_fst
+  generalize_proofs hd
+  have := hd.choose_spec
+  set d := hd.choose
+  use d
+  simpa using this
+
+lemma Adj_prev_self (hp : p.IsHamiltonianCycle) : G.Adj (hp.prev b) b := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean:183]:
```suggestion
lemma adj_prev_left (hp : p.IsHamiltonianCycle) : G.Adj (hp.prev b) b := by
```

File: Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean (hunk 13 above)
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean:151]: I would advise you make this definition (along with the following ones) a separate PR

Comment (meow-sister) [reply Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean]: But this may make the dependency of PR more complex...

**Comment by YaelDillies** [comment]
Can you merge master and adapt to use the lemmas in #16294 ?

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean [hunk 15]
```diff
@@ -1315,6 +1403,54 @@ theorem map_toDeleteEdges_eq (s : Set (Sym2 V)) {p : G.Walk v w} (hp) :
...
+lemma fromList_support {l : List V} (ne : l ≠ []) (hl : l.Chain' (fun u v => G.Adj u v)) :
+    (fromList ne hl).support = l := by
+  induction l with
+  | nil => simp at ne
+  | cons a l' ih =>
+    simp [fromList]
+    split_ifs with l'_ne
+    · simp [l'_ne]
+    · simpa using ih l'_ne _
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Walk.lean:1432]: Can you make this a separate PR?

File: Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean [hunk 16]
```diff
@@ -102,21 +102,236 @@ lemma IsHamiltonianCycle.mem_support (hp : p.IsHamiltonianCycle) (b : α) :
...
+  have p'_at_2 : p'.support[2]'(by simp; omega) = hp'.next (hp'.next b) :=
+    hp'.support_getElem_succ (i := 1) (by omega) p'_at_1
+  simp only [← hp.rotate_next _ b]
+  intro h
+  change hp'.next (hp'.next b) = b at h
+  simp_rw [← p'_at_2, ← p'_at_0] at h
+  rw [← List.getElem_dropLast _ 2 (by simp; omega)] at h
+  rw [← List.getElem_dropLast _ 0 (by simp; omega)] at h
+  rw [List.Nodup.getElem_inj_iff hp'.support_dropLast_Nodup] at h
+  simp at h
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Hamiltonian.lean:251]: Can you make this a separate PR?

**Review by YaelDillies — COMMENTED** [review]
This PR is still way too big. Here is a rule of thumb I ecnourage you to follow: Each (series of) definition(s) should be a separate PR. See my comments for suggestions on how to split this PR. I would suggest:
* Make the current PR be about the definitions currently existing in mathlib
* Make a PR (possibly depending on the current one) be about `fromList`
* Make a PR (possibly depending on the current one) be about `next`/`prev` and related stuff

**Comment by kim-em** [comment]
This hasn't been touched in over a year, and has a merge conflict. I'm closing now; please re-open if you think appropriate.
